US06380218B1
N-(2-Chloro-benzyl)-2-(3-dimethylamino-phenoxy)-nicotinamide
To a stirred solution 2-(3-Dimethylamino-phenoxy)-nicotinic acid (0.200 grams, 0.775 mmole), 2-Chloro-benzylamine (0.120 grams, 0.85 mmole), and 1-hydroxybenzotriazole hydrate (0.126 grams, 0.93 mmole) in dry dimethylformamide (4 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide chloride hydrochloride (0.193 grams, 1.00 mmole) and stirred over night. The mixture was diluted with 50 ml water and extracted with ethyl acetate. The combined organics were washed with 1N NaOH, water and brine, dried over Na2SO4, filtered and concentrated to give an oil that was purified by chromatography on silica gel. Recrystalization from ethyl acetate/hexane gave an oil. The product was dissolved in diethyl ether and hydrochloric acid (g) was used to precipitate the salt, which was filtered, dissolved in methylene chloride and concentrated to a solid (0.075 g). M.P. 85-87° C.; Anal. calcd. for C21H20N3O2Cl.HCl: C, 60.30; H, 5.06; N, 10.04. Found: C, 60.58; H, 5.60; N, 9.28.

reactant | 2-(3-Dimethylamino-phenoxy)-nicotinic acid | 0.775 mmole, 0.200 grams | CN(C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)C | C14H14N2O3
reactant | 2-Chloro-benzylamine | 0.85 mmole, 0.120 grams | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | 1-hydroxybenzotriazole hydrate | 0.93 mmole, 0.126 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide chloride hydrochloride | 1.00 mmole, 0.193 grams | Cl.[Cl-].C(C)N=C=N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-Chloro-benzyl)-2-(3-dimethylamino-phenoxy)-nicotinamide | ClC1=C(CNC(C2=C(N=CC=C2)OC2=CC(=CC=C2)N(C)C)=O)C=CC=C1 | C21H20ClN3O2
